US04053473
3-Chloromethylpyrazole, prepared by reacting 3-hydroxymethylpyrazole witth thionyl chloride, is reacted with the sodium salt of ethylene glycol to give 3-(2-hydroxyethoxymethyl)pyrazole. Treatment of 3-(2-hydroxyethoxymethyl)pyrazole with thionyl chloride gives 3-(2-chloroethoxymethyl)pyrazole.

reactant | 3-Chloromethylpyrazole | ClCC1=NNC=C1 | C4H5ClN2
reactant | 3-hydroxymethylpyrazole | OCC1=NNC=C1 | C4H6N2O
reactant | sodium | [Na] | Na
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 3-(2-hydroxyethoxymethyl)pyrazole | OCCOCC1=NNC=C1 | C6H10N2O2
